### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/FreeModule): add repr_algebraMap

### PR DESCRIPTION
**Pull request by mariainesdff**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/FreeModule/Basic.lean [hunk 1]
```diff
@@ -207,3 +207,23 @@ instance tensor : Module.Free S (M ⊗[R] N) :=
...
+namespace Basis
+
+open Finset
+
+variable {S : Type*} [CommRing R] [Ring S] [Algebra R S]
+
+/-- If `B` is a basis of the `R`-algebra `S` such that `B i = 1` for some index `i`, then
+each `r : R` gets represented as `s • B i` as an element of `S`. -/
+theorem equivFun_algebraMap {ι : Type*} [Fintype ι] [DecidableEq ι] {B : Basis ι R S} {i : ι}
+    (hBi : B i = (1 : S)) (r : R) :
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/FreeModule/Basic.lean:220]:
```suggestion
    (hBi : B i = 1) (r : R) :
```
Does this work?

**Review by riccardobrasca — APPROVED** [review]
Do we really need `Fintype ι` (we probably do for `equivFun`, but you can use, I think, `Basis.coord`). Thanks!

bors d+

File: Mathlib/LinearAlgebra/FreeModule/Basic.lean (hunk 1 above)
Comment (mariainesdff) [reply Mathlib/LinearAlgebra/FreeModule/Basic.lean:220]: Yes, thanks.

**Comment by riccardobrasca** [comment]
> > Do we really need `Fintype ι` (we probably do for `equivFun`, but you can use, I think, `Basis.coord`)
> 
> Even if I stated this in terms of `Basis.coord`, I would still need `Fintype ` to apply `LinearIndependent.eq_coords_of_eq` in the proof, right?

Sorry, I mean to `Basis.repr` (that should be the same).
```lean
theorem equivFun_algebraMap {ι : Type*} [DecidableEq ι] {B : Basis ι R S} {i : ι}
    (hBi : B i = 1) (r : R) :
    B.repr ((algebraMap R S) r) = fun j : ι ↦ if i = j then r else 0 := by
  ext j
  rw [Algebra.algebraMap_eq_smul_one, map_smul, ← hBi, Finsupp.smul_apply, B.repr_self_apply]
  simp
```
(note that I swapped `i` and `j` in the `if` to match `Basis.repr_self_apply`.)
